US07335658B2
{6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID PROPYL ESTER
Following the procedure of Example 7, making variations only as required to use propyl chloroformate in place of n-butyl chloroformate to react with [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone, the title compound was obtained as a white solid (72% yield). 1H NMR (500 MHz, CDCl3) δ 8.10, 7.73, 7.62, 7.55, 7.37, 7.04, 4.14, 3.96-4.02, 3.88-3.94, 3.61-3.66, 3.52-3.56, 3.32, 1.66-1.75, 0.98. MS (ES+) m/z 438 (M+1).

reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
reactant | [4-(6-aminopyridazin-3-yl)piperazin-1-yl](2-trifluoromethylphenyl)methanone | NC1=CC=C(N=N1)N1CCN(CC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C16H16F3N5O
product | {6-[4-(2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZIN-3-YL}CARBAMIC ACID PROPYL ESTER | C(CC)OC(NC=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O)=O | C20H22F3N5O3
